### PR TITLE
Get/set lemmas for insertBlock?, BlockPtr.linkBetweenWithParent

### PR DESCRIPTION
**Pull request by ineol**
Also makes the lemmas about `getRegion!` fully applied to an index.

### CODE REVIEW

File: Veir/Rewriter/Basic.lean [hunk 1]
```diff
@@ -64,7 +64,7 @@ def InsertPoint.next (ip : InsertPoint) : Option OperationPtr :=
 /--
 - Insert an operation at a given location.
 -/
-@[grind]
```
Comment (math-fehr) [inline Veir/Rewriter/Basic.lean:67]: Nice

File: Veir/Rewriter/GetSetInBounds.lean [hunk 2]
```diff
@@ -40,6 +43,8 @@ namespace Veir
 
 section Rewriter.insertOp?
```
Comment (math-fehr) [inline Veir/Rewriter/GetSetInBounds.lean:45]: What does unseal do btw?

File: Veir/Rewriter/GetSetInBounds.lean [hunk 3]
```diff
@@ -539,6 +544,309 @@ theorem OpOperandPtrPtr.get!_detachOp {opOperandPtr : OpOperandPtrPtr} :
...
+theorem BlockPtr.firstUse!_insertBlock? {block : BlockPtr} :
+    Rewriter.insertBlock? ctx newBlock ip h₁ h₂ h₃ = some newCtx →
+    (block.get! newCtx).firstUse = (block.get! ctx).firstUse := by
+  simp only [Rewriter.insertBlock?]
+  grind
+
+grind_pattern BlockPtr.firstUse!_insertBlock? =>
+  Rewriter.insertBlock? ctx newBlock ip h₁ h₂ h₃, some newCtx, (block.get! newCtx).firstUse
+
+@[simp]
```
Comment (math-fehr) [inline Veir/Rewriter/GetSetInBounds.lean]: I guess we should remove simp from that one and the next ones

File: Veir/Rewriter/GetSetInBounds.lean [hunk 4]
```diff
@@ -539,6 +544,309 @@ theorem OpOperandPtrPtr.get!_detachOp {opOperandPtr : OpOperandPtrPtr} :
...
+      if block = newBlock then
+        ip.region! ctx
+      else
+      (block.get! ctx).parent := by
+  simp only [Rewriter.insertBlock?]
+  grind
+
+grind_pattern BlockPtr.parent!_insertBlock? =>
+  Rewriter.insertBlock? ctx newBlock ip h₁ h₂ h₃, some newCtx, (block.get! newCtx).parent
+
```
Comment (math-fehr) [inline Veir/Rewriter/GetSetInBounds.lean:632]: And add the simp there

File: Veir/Rewriter/GetSetInBounds.lean [hunk 5]
```diff
@@ -539,6 +544,309 @@ theorem OpOperandPtrPtr.get!_detachOp {opOperandPtr : OpOperandPtrPtr} :
...
+@[simp]
+theorem BlockArgumentPtr.get!_insertBlock? {blockArg : BlockArgumentPtr} :
+    Rewriter.insertBlock? ctx newBlock ip h₁ h₂ h₃ = some newCtx →
+    blockArg.get! newCtx = blockArg.get! ctx := by
+  simp only [Rewriter.insertBlock?]
+  grind
+
+grind_pattern BlockArgumentPtr.get!_insertBlock? =>
+  Rewriter.insertBlock? ctx newBlock ip h₁ h₂ h₃, some newCtx, blockArg.get! newCtx
+
```
Comment (math-fehr) [inline Veir/Rewriter/GetSetInBounds.lean:772]: Same here for the simp

File: Veir/Rewriter/WellFormed/Rewriter/Operation.lean [hunk 6]
```diff
@@ -141,12 +148,13 @@ theorem InsertPoint.wf_insertOp?_isSome (hWF : ctx.WellFormed) {ipInBounds : ip.
...
       grind
 
+unseal Rewriter.insertOp? in
 theorem BlockPtr.operationChainWellFormed_Rewriter_insertOp?_other
     (hol : BlockPtr.operationList blockPtr ctx ctxWellFormed blockInBounds = array)
     (hctx' : Rewriter.insertOp? ctx newOp ip newOpIn insIn ctxInBounds = some ctx')
     (ipParent : InsertPoint.block! ip ctx ≠ some blockPtr) :
       blockPtr.OperationChainWellFormed ctx' array (by grind) := by
-  have ipWf : ip.Wf ctx newOp := by rcases ip <;> grind
+  have ipWf : ip.Wf ctx newOp := by rcases ip <;> grind [Rewriter.insertOp?] -- TODO: missing lemmas?
```
Comment (math-fehr) [inline Veir/Rewriter/WellFormed/Rewriter/Operation.lean:157]: I'll try to figure out what is missing in a next PR

File: Veir/Rewriter/GetSetInBounds.lean (hunk 2 above)
Comment (ineol) [reply Veir/Rewriter/GetSetInBounds.lean:45]: It locally removed the `@[irreducible]` annotation from the definiiton

File: Veir/Rewriter/WellFormed/Rewriter/Operation.lean (hunk 6 above)
Comment (ineol) [reply Veir/Rewriter/WellFormed/Rewriter/Operation.lean:157]: I think there is reasonnnig about, if the return is some, then the params satisfy some preconditions. So it's not get/sets
